US07414142B2
4-[(1E)-1-(hydroxyimino)-2,3-dihydro-1H-inden-5-yl]benzonitrile
The title compound was prepared from 5-bromoindan-1-one oxime and 4-cyanophenyl boronic acid according to the procedure described in example 6. MS (ESI) m/z 249; HRMS: calcd for C16H12N2O+H+, 249.10224; found (ESI, [M+H]+), 249.1021.

reactant | 5-bromoindan-1-one oxime | BrC=1C=C2CCC(C2=CC1)=NO | C9H8BrNO
reactant | 4-cyanophenyl boronic acid | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
product | 4-[(1E)-1-(hydroxyimino)-2,3-dihydro-1H-inden-5-yl]benzonitrile | O\N=C\1/CCC2=CC(=CC=C12)C1=CC=C(C#N)C=C1 | C16H12N2O
